US07799822B2
Prepared using general procedure 15, method B. Prepared using a mixture of 4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzene-1-sulfonyl chloride (2.0 g, 5.6 mmol), 4-aminopyrimidine (535 mg, 5.6 mmol), DABCO (3.1 g, 28.0 mmol) and acetonitrile (10 mL). The reaction mixture was heated at 40° C. for 6 h. Purification via silica gel chromatography using 5% MeOH in CH2Cl2 gave N-(pyrimidin-4-yl)-4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzenesulfonamide (850 mg, 36%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=415.3; tR=2.57 min.

reactant | 4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzene-1-sulfonyl chloride | 5.6 mmol, 2.0 g | FC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C13H13ClF3NO3S
reactant | 4-aminopyrimidine | 5.6 mmol, 535 mg | NC1=NC=NC=C1 | C4H5N3
reactant | DABCO | 28.0 mmol, 3.1 g | C1CN2CCN1CC2 | C6H12N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(pyrimidin-4-yl)-4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzenesulfonamide | 850 mg, 36% | N1=CN=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C17H17F3N4O3S
